US07534797B2
8-Fluoro-2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline
A stirred solution of 7-chloro-8-fluoro-2-phenylquinoline (923 mg, 3.58 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (1060 mg, 4.15 mol), 1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene hydrochloride (90 mg, 0.2 mmol), palladium acetate (20 mg, 0.1 mmol) and potassium acetate (880 mg, 9.0 mmol) in anhydrous tetrahydrofuran (20 mL) was heated to reflux under nitrogen overnight. The reaction mixture was allowed to cool to rt, and was diluted with ethyl acetate (50 ml). The mixture was filtered through celite, washing with ethyl acetate (100 ml). The resulting organic layer was washed with brine (2×50 ml), dried (MgSO4), filtered and concentrated. Trituration using dichloromethane and hexanes gave the title compound as an off-white solid; 1H NMR (Acetone-d6, 400 MHz) δ 8.34 (1H, dd, J=12.1 Hz, 2.6 Hz), 8.23 (2H, d, J=8.9Hz), 8.12 (1H, d, 8.6Hz), 7.63 (2H, d, 2.5Hz), 7.47-7.37 (3H, m), 1.27 (12H, s).

reactant | 7-chloro-8-fluoro-2-phenylquinoline | 3.58 mmol, 923 mg | ClC1=CC=C2C=CC(=NC2=C1F)C1=CC=CC=C1 | C15H9ClFN
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 4.15 mol, 1060 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | 1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene hydrochloride | 0.2 mmol, 90 mg | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(N(C=C1)C1=C(C=CC=C1C(C)C)C(C)C)=[ClH] | C27H37ClN2
reactant | potassium acetate | 9.0 mmol, 880 mg | C(C)(=O)[O-].[K+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.1 mmol, 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 8-Fluoro-2-phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline | FC=1C(=CC=C2C=CC(=NC12)C1=CC=CC=C1)B1OC(C(O1)(C)C)(C)C | C21H21BFNO2
